* Copyright 2020 The SkyWater PDK Authors
*
* Licensed under the Apache License, Version 2.0 (the "License");
* you may not use this file except in compliance with the License.
* You may obtain a copy of the License at
*
*     https://www.apache.org/licenses/LICENSE-2.0
*
* Unless required by applicable law or agreed to in writing, software
* distributed under the License is distributed on an "AS IS" BASIS,
* WITHOUT WARRANTIES OR CONDITIONS OF ANY KIND, either express or implied.
* See the License for the specific language governing permissions and
* limitations under the License.

* SKY130 Spice File.
* statistics {
*   mismatch {
*   }
* }
* 4-terminal Vertical Parallel Plate Capacitor /w LI-M4 fingers and M5 Shield
.subckt  sky130_fd_pr__cap_vpp_44p7x23p1_pol1m1m2m3m4m5_noshield c0 c1 b mf=1
.param
+ ctot_a = '1.47e-12*sky130_fd_pr__cap_vpp_11p5x11p7_pol1m1m2m3m4m5_noshield_base__cor'
+ c0_sub = '5.17e-14*cli2s_vpp'
+ c1_sub = '4.86e-14*cli2s_vpp'
+ rat_m5 = 0.026
+ rat_m4 = 0.1
+ rat_m3 = 0.1
+ rat_m2 = 0.259
+ rat_m1 = 0.259
+ rat_li = 0.18
+ rat_py = 0.076
+ cap_m5 = 'rat_m5*ctot_a'
+ cap_m4 = 'rat_m4*ctot_a'
+ cap_m3 = 'rat_m3*ctot_a'
+ cap_m2 = 'rat_m2*ctot_a'
+ cap_m1 = 'rat_m1*ctot_a'
+ cap_li = 'rat_li*ctot_a'
+ cap_py = 'rat_py*ctot_a'
+ lpy = '23.05-2*0.33-0.21'
+ ll1 = '23.05-2*0.33-0.21'
+ lm1 = '23.05-2*0.33-0.21'
+ lm2 = '23.05-2*0.33-0.21'
+ lm3 = '23.05-2*0.33-0.21'
+ lm4 = '23.05-2*0.33-0.21'
+ lm5 = '23.05-3*1.6'
+ wpy = 0.150
+ wl1 = 0.140
+ wm1 = 0.140
+ wm2 = 0.140
+ wm3 = 0.300
+ wm4 = 0.300
+ wm5 = 1.60
+ nfpy = '32.28*4'
+ nfl1 = '41.25*4'
+ nfm1 = '41.25*4'
+ nfm2 = '41.25*4'
+ nfm3 = '19.52*4'
+ nfm4 = '19.52*4'
+ nfm5 = '4.07*4'
+ nvia4 = 2.0
+ nvia3 = '28*4'
+ nvia2 = '10*4'
+ nvia = '20*4'
+ ncon = '31*4'
+ nlicon = '33*4'
rsm5 z0 z2 'rm5*lm5/wm5*(1/3)*(1/nfm5)'
cm5 z2 z1 'cap_m5'
rvia4_0 z0 a0 'rcvia4/nvia4'
rvia4_1 z1 a1 'rcvia4/nvia4'
rsm4 a0 a2 'rm4*lm4/wm4*(1/3)*(1/nfm4)'
cm4 a2 a1 'cap_m4'
rvia3_0 a0 b0 'rcvia3/nvia3'
rvia3_1 a1 b1 'rcvia3/nvia3'
rsm3 b0 b2 'rm3*lm3/wm3*(1/3)*(1/nfm3)'
cm3 b2 b1 'cap_m3'
rvia2_0 b0 c0 'rcvia2/nvia2'
rvia2_1 b1 c1 'rcvia2/nvia2'
rsm2 c0 c2 '(rm2*lm2/wm2*(1/3)*(1/nfm2)+rm2*lm2/wm2)'
cm2 c2 c1 'cap_m2'
rvia_0 c0 d0 'rcvia/nvia'
rvia_1 c1 d1 'rcvia/nvia'
rsm1 d0 d2 'rm1*lm1/wm1*(1/3)*(1/nfm1)'
cm1 d2 d1 'cap_m1'
rcon1 d0 e0 'rcl1/ncon'
rcon2 d1 e1 'rcl1/ncon'
rli1 e0 e2 'rl1*ll1/wl1*(1/3)*(1/nfl1)'
cli e2 e1 'cap_li'
rlicon1 e0 f0 'rcp1/nlicon'
rlicon2 e1 f1 'rcp1/nlicon'
rpy1 f0 f2 'rp1*lpy/wpy*(1/3)*(1/nfpy)'
cpy f2 f1 'cap_py'
cpy2b_0 f0 b 'c0_sub'
cpy2b_1 f1 b 'c1_sub'
.ends sky130_fd_pr__cap_vpp_44p7x23p1_pol1m1m2m3m4m5_noshield
